US05410061
i) 1-[4-(Quinolin-2-ylmethoxy)benzyl]indole-4-carboxylic acid methyl ester
This compound was prepared from methyl 4-indole carboxylate and 4-(quinolin-2-ylmethoxy)benzyl chloride (Example 1a by the method described in Example 1b part i), m.p. 128°-131° C.

reactant | methyl 4-indole carboxylate | N1C=CC=2C(=CC=CC12)C(=O)OC | C10H9NO2
reactant | 4-(quinolin-2-ylmethoxy)benzyl chloride | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(CCl)C=C1 | C17H14ClNO
product | 1-[4-(Quinolin-2-ylmethoxy)benzyl]indole-4-carboxylic acid methyl ester | COC(=O)C=1C=2C=CN(C2C=CC1)CC1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1 | C27H22N2O3
